US08383644B2
(S)-2-Amino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride
(S)-2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester (3.0 g) was dissolved in 60 mL DCM. 25 mL of 4N HCl (in dioxane) was added and the mixture stirred at room temperature for 2.5 hours. The mixture was concentrated and DCM added and mixture concentrated again. The resulting solid was dried under vacuum to provide 2.6 g. LCMS: m/z 489.

reactant | (S)-2-tert-Butoxycarbonylamino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester | 3.0 g | COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)NC(=O)OC(C)(C)C)=O | C30H31Cl2NO7
reactant | HCl | 4N, 25 mL | Cl | ClH
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-Amino-3-{(R)-2-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3-dihydro-benzo[1,4]dioxin-6-yl}-propionic acid methyl ester hydrochloride | Cl.COC([C@H](CC1=CC2=C(O[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC(=C(C=C2)Cl)Cl)C=C1)N)=O | InChI=1S/C25H23Cl2NO5.ClH/c1-30-25(29)21(28)11-15-3-9-22-23(12-15)32-14-24(33-22)17-4-6-18(7-5-17)31-13-16-2-8-19(26)20(27)10-16;/h2-10,12,21,24H,11,13-14,28H2,1H3;1H/t21-,24-;/m0./s1
